US06828460B2
trans/cis-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]acetamide
trans/cis-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine (27 mg) was dissolved in pyridine (0.5 ml). Acetyl chloride (6 μl) and 4-dimethylaminopyridine (2 mg) were added sequentially and the reaction mixture stirred for 24 hr. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (10 ml) and water (2 ml). The aqueous phase was extracted with ethyl acetate (2×5 ml) and the combined organic phases were washed with brine (10 ml), dried over anhydrous magnesium sulphate, and concentrated to give a brown oil. Purification via flash column chromatography (SiO2 eluting with ethyl acetate:petroleum ether, 7:3 v/v) afforded the title product as a white solid (15 mg, 50%) and a mixture of diastereoisomers. δH(CDCl3): 0.17 (3H, s), 0.19 (3H, s), 0.21 (3H, s), 0.22 (3H, s), 0.96 (9H, s), 1.02 (9H, s), 1.06-1.20 (2H, m), 1.36-1.54 (2H, m), 1.60-1.75 (2H, m), 1.80 -1.92 (2H, m), 1.95 (1.5H, s), 2.00 (1.5H, s), 2.75-2.90 (1H, m), 3.76-3.87 (1H, m), 5.34-5.39 (0.5H, d), 5.72-5.77 (0.5H, d), 6.26-6.29 (1H, m), 6.38-6.41 (1H, m), 6.93 (0.5H, d), 6.95 (0.5H, d); m/z (ES+) 478 (M+1)+.

reactant | cis-4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylamine | 27 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)N | C24H45NO2Si2
reactant | Acetyl chloride | 6 μl | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | cis-N-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]acetamide | 15 mg, 50% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)NC(C)=O | C26H47NO3Si2
